US07863291B2
2-Chloro-7-methylquinoxaline (0.51 g, 2.86 mmol), ), prepared according to J. Chem. Soc. 1948 1310-1313, and (2,4-dimethoxyphenyl)methanamine (1.29 mL, 8.57 mmol) were microwaved in DMSO (2.5 mL) for 30 min at 150° C. This was diluted into 150 mL EtOAc and extracted three times with 100 mL brine. The crude product was purified by flash chromatography on a 90 g silica gel cartridge with 20 to 80% EtOAc in hexane, 50 min, at 40 mL/min to afford N-(2,4-dimethoxybenzyl)-7-methylquinoxalin-2-amine (860 mg, 2.78 mmol, 97% yield).

reactant | 2-Chloro-7-methylquinoxaline | 2.86 mmol, 0.51 g | ClC1=NC2=CC(=CC=C2N=C1)C | C9H7ClN2
reactant | (2,4-dimethoxyphenyl)methanamine | 8.57 mmol, 1.29 mL | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | N-(2,4-dimethoxybenzyl)-7-methylquinoxalin-2-amine | 2.78 mmol, 860 mg, 97% yield | COC1=C(CNC2=NC3=CC(=CC=C3N=C2)C)C=CC(=C1)OC | C18H19N3O2
